US06191124B1
Magnesium (0.146 g) in anhydrous ether (15 mL) was treated with (2-bromoethyl)benzene (0.82 mL) and reacted for 2.5 hours. Solid 7-Methoxy-imidazo[2,1-b]benzothiazole-3-carboxaldehyde (Formula M-3) (0.46 g) was added and reacted for 24 hours. The reaction mixture was quenched with 5% ammonium chloride solution and product was extracted into ethyl acetate. Drying and evaporation of solvent gave crude 7-Methoxy-α-(2-phenylethyl) imidazo[2,1-b]benzothiazole-3-methanol (Formula M-4) which was recrystallized from acetonitrile solution to provide pure 7-Methoxy-α-(2-phenylethyl)imidazo[2,1-b]benzothiazole-3-methanol (Formula M-4) (0.60 g), m.p. 166-167°.

reactant | Magnesium | 0.146 g | [Mg] | Mg
reactant | (2-bromoethyl)benzene | 0.82 mL | BrCCC1=CC=CC=C1 | C8H9Br
reactant | 7-Methoxy-imidazo[2,1-b]benzothiazole-3-carboxaldehyde | 0.46 g | COC1=CC2=C(N3C(S2)=NC=C3C=O)C=C1 | C11H8N2O2S
solvent | ether | 15 mL | CCOCC | C4H10O
product | 7-Methoxy-α-(2-phenylethyl)imidazo[2,1-b]benzothiazole-3-methanol | 0.60 g | COC1=CC2=C(N3C(S2)=NC=C3C(O)CCC3=CC=CC=C3)C=C1 | C19H18N2O2S
